US06936612B2
8-Cyclopentyl-6-ethoxymethyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one (0.60 g, 1.79 mmol) and 5-morpholin-4-yl-pyridin-2-ylamine (0.442 g, 2.47 mmol) were heated to reflux in toluene (6 mL) for 16 hours. The reaction mixture was cooled to room temperature and the precipitate that formed was filtered off and washed with toluene (2×4 mL) to give 8-cyclopentyl-6-ethoxymethyl-2-(5-morpholin-4-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one (0.142 g, 17.6%). MS (APCI); M++1: Calc'd, 451.3. Found 451.3. Anal. Calc'd for C25H32N6O2: C, 63.98; H, 6.71; N, 18.65. Found: C, 64.03; H, 6.66; N, 18.49.

reactant | 8-Cyclopentyl-6-ethoxymethyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one | 1.79 mmol, 0.60 g | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)S(=O)C)COCC)=O | C16H21N3O3S
reactant | 5-morpholin-4-yl-pyridin-2-ylamine | 2.47 mmol, 0.442 g | N1(CCOCC1)C=1C=CC(=NC1)N | C9H13N3O
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | 8-cyclopentyl-6-ethoxymethyl-2-(5-morpholin-4-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one | 0.142 g, 17.6% | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2CCOCC2)COCC)=O | C24H30N6O3
